US04091115
A mixture of 11.2 g of 7-dimethylamino-6,7-dihydro [5H] benzocycloheptene, 800 ml of ethanol and 11.2 g carbon containing 10% of Pd (OH)2 was held under a hydrogen atmosphere for 30 minutes and when the theoretical amount of hydrogen had been absorbed, the mixture was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel. Elution with an 8-2-1 ethyl acetate-benzene-triethylamine mixture yielded 4.1 g of 7-dimethylamino-6,7,8,9-tetrahydro [5H] benzocycloheptene.

reactant | 7-dimethylamino-6,7-dihydro [5H] benzocycloheptene | 11.2 g | CN(C1CCC2=C(C=C1)C=CC=C2)C | C13H17N
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 7-dimethylamino-6,7,8,9-tetrahydro [5H] benzocycloheptene | 4.1 g | CN(C1CCC2=C(CC1)C=CC=C2)C | C13H19N
